### PR TITLE
Rebase infrastructure for pushouts to span diagrams

### PR DESCRIPTION
**Pull request by EgbertRijke**
In this PR I refactor the definitions of spans, morphisms of spans, and equivalences of spans (previously called homotopies of spans), and I will work on a better integration of this infrastructure in the theory of pushouts.

Since this touches upon earlier work of @VojtechStep and @tomdjong, perhaps you two can have a look at this PR when it's ready. (That's not to exclude @fredrik-bakke from also having a look)

### CODE REVIEW

File: src/foundation/morphisms-spans.lagda.md
Comment (fredrik-bakke) [inline src/foundation/morphisms-spans.lagda.md:1]: This file should maybe be called `morphisms-of-spans` so that it won't be confused with the notion of spans _as_ morphisms.

File: src/foundation/morphisms-spans.lagda.md [hunk 1]
```diff
@@ -0,0 +1,117 @@
...
+concepts of spans:
+
+- Morphisms of (binary) spans with fixed domain and codomain.
+- Morphisms of (binary) spans.
+- Morphisms of spans of a fixed family of types.
+- Morphisms of spans of families of types indexed by a fixed indexing type.
+
+### Morphisms of binary spans with fixed domain and codomain
+
+A **morphism of spans with fixed domain and codomain** from a
```
Comment (fredrik-bakke) [inline src/foundation/morphisms-spans.lagda.md:31]: Depends on what you mean by domain and codomain, but shouldn't we say the codomains are fixed, and the domain is not?

Comment (EgbertRijke) [reply src/foundation/morphisms-spans.lagda.md:31]: I changed the definitions of domain and codomain, and explained this in the idea section of `foundation.spans`:
- The **spanning type** of a span is the type in the middle
- The **domain** of a span is the type on the left
- The **codomain** of a span is the type on the right
This corresponds to the definitions in the category of relations.

Comment (fredrik-bakke) [reply src/foundation/morphisms-spans.lagda.md:31]: Ah, alright thanks!

File: src/synthetic-homotopy-theory/dependent-universal-property-pushouts.lagda.md [hunk 2]
```diff
@@ -46,11 +47,10 @@ the pushout.
 
 ```agda
 dependent-universal-property-pushout :
-  {l1 l2 l3 l4 : Level} (l : Level) {S : UU l1} {A : UU l2} {B : UU l3}
-  (f : S → A) (g : S → B) {X : UU l4} (c : cocone f g X) →
-  UU (l1 ⊔ l2 ⊔ l3 ⊔ l4 ⊔ lsuc l)
-dependent-universal-property-pushout l f g {X} c =
-  (P : X → UU l) → is-equiv (dependent-cocone-map f g c P)
+  {l1 l2 l3 l4 : Level} (s : span l1 l2 l3) {X : UU l4} (c : cocone-span s X) →
+  UUω
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-universal-property-pushouts.lagda.md:51]: @fredrik-bakke I'm really sorry but we're duplicating some work

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-universal-property-pushouts.lagda.md:51]: Yup. Can I point out that "Spans" is not a good title when you're doing work that is clearly not just about "Spans"?

**Comment by VojtechStep** [comment]
@EgbertRijke do you have a timeline in mind for finishing this PR? I'm not sure if I should be continuing my development with the old infrastructure, or if it's feasible to start using the shiny new `span`s

**Comment by VojtechStep** [comment]
Great! Thanks

File: src/foundation/cospans.lagda.md [hunk 3]
```diff
@@ -62,9 +69,11 @@ between their codomains so that the triangles on either side commute:
 ```text
   A ===== A
   |       |
+  |       |
   v       v
   C ----> D
-  ^       ^
+  ∧       ∧
```
Comment (fredrik-bakke) [inline src/foundation/cospans.lagda.md:75]: nice

File: src/synthetic-homotopy-theory/26-descent.lagda.md [hunk 4]
```diff
@@ -397,104 +404,100 @@ abstract
...
+      ( fam-lifts (spanning-type-span s) P)
+      ( precompose-lifts P (left-map-span s))
+      ( precompose-lifts P (right-map-span s))
+      ( cone-pullback-property-pushout s c X)
+      ( fam-lifts X P)
+  cone-family-dependent-pullback-property P γ =
+    pair
+      ( precompose-lifts P (horizontal-map-cocone-span s c) γ)
+      ( pair
+        ( precompose-lifts P (vertical-map-cocone-span s c) γ)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/26-descent.lagda.md:423]: copattern match

File: src/synthetic-homotopy-theory/26-descent.lagda.md [hunk 5]
```diff
@@ -503,121 +506,121 @@ dependent-universal-property-universal-property-pushout f g c up-X =
...
+          ( coherence-equiv-Fam-pushout P Q eA))
+
+  refl-equiv-Fam-pushout :
+    {l : Level} (P : Fam-pushout l s) → equiv-Fam-pushout P P
+  refl-equiv-Fam-pushout P =
+    pair
+      ( λ a → id-equiv)
+      ( pair
+        ( λ b → id-equiv)
+        ( λ s → refl-htpy))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/26-descent.lagda.md:553]: copattern match

File: src/synthetic-homotopy-theory/26-descent.lagda.md
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/26-descent.lagda.md:1]: I think @VojtechStep is refactoring this file in #988

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/26-descent.lagda.md:1]: I can’t wrap up this PR without working through this file

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/26-descent.lagda.md:1]: I see, that's unfortunate. I'll let you two figure out the merging.

File: src/synthetic-homotopy-theory/universal-property-pushouts.lagda.md [hunk 6]
```diff
@@ -84,474 +91,588 @@ property of pushouts:
...
 ```agda
 universal-property-pushout :
-  {l1 l2 l3 l4 : Level} (l : Level) {S : UU l1} {A : UU l2} {B : UU l3}
-  (f : S → A) (g : S → B) {X : UU l4} →
-  cocone f g X → UU (l1 ⊔ l2 ⊔ l3 ⊔ l4 ⊔ lsuc l)
-universal-property-pushout l f g c =
-  (Y : UU l) → is-equiv (cocone-map f g {Y = Y} c)
+  {l1 l2 l3 l4 : Level} (s : span l1 l2 l3) {X : UU l4} → cocone-span s X → UUω
+universal-property-pushout s c =
+  {l : Level} (Y : UU l) → is-equiv (cocone-span-map s {Y = Y} c)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/universal-property-pushouts.lagda.md:96]: Why don't you want to keep the curried variant around?

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/universal-property-pushouts.lagda.md:96]: Because it inspired poor programming even by experienced formalizers of mathematics.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/universal-property-pushouts.lagda.md:96]: I see. I can work with that.

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/universal-property-pushouts.lagda.md:96]: The problem was that people including me started giving specifications with ad-hoc coherences and unsystematic names. When you set things up with named structures, and give specifications with arguments in bundled form, then those coherences don't have to be ad-hoc anymore, and naming becomes a lot easier and more systematic.

I think this is also relevant in light of Anders' recommendation to bundle up less and let Agda do more work: I am coming to the conclusion that this encourages formalizers to be less systematic, and that it will make it more complicated to maintain a good naming scheme. I might be in favor of bundling up things even more than we currently do.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/universal-property-pushouts.lagda.md:96]: I think you're quite right in your assessment. For instance, having worked a bit with morphisms of arrows recently I've noticed less friction in my formalizations. Two additional benefits I see is that it allows us to formalize and apply operations on inputs of a construction more generally, and in particular symmetries of them.

**Comment by EgbertRijke** [comment]
I'm converting `span-fixed-domain-codomain` to `span` and `span` to `span-diagram`. This should make our terminology more in use with the common mathematical use of a span, which is from one given object to another. Furthermore, cocones will be on span diagrams, which is analogous to cocones on sequential diagrams, so a recurring scheme is emerging.

**Comment by EgbertRijke** [comment]
In order to complete this refactoring I'm gonna have to deal with pointed spans as well. Please hang on tight everyone:P

**Comment by EgbertRijke** [comment]
...and pointed morphisms of arrows too

**Comment by fredrik-bakke** [comment]
We should formalize some wild category theory soon...

**Comment by EgbertRijke** [comment]
Agreed, but I can get this refactor done without developing wild category theory, so I'll focus on this PR first. Let's do wild categories when y'all are in Ljubljana

**Comment by EgbertRijke** [comment]
I have changed the horizontal/vertical scheme for cocones to left/right. It was inconsistent with the spans, and it was also inconsistent with itself, because we speak if inl and inr for pushouts. It lead to a strange mix of namings that started to bother me, and it is all resolved with the left/right scheme.

File: src/foundation-core/extensions-spans.lagda.md [hunk 7]
```diff
@@ -0,0 +1,176 @@
...
+```agda
+open import foundation.dependent-pair-types
+open import foundation.morphisms-arrows
+open import foundation.spans
+open import foundation.universe-levels
+
+open import foundation-core.function-types
+```
+
+</details
```
Comment (VojtechStep) [inline src/foundation-core/extensions-spans.lagda.md:18]:
```suggestion
</details>
```

**Comment by fredrik-bakke** [comment]
> I have changed the horizontal/vertical scheme for cocones to left/right. It was inconsistent with the spans, and it was also inconsistent with itself, because we speak if inl and inr for pushouts. It lead to a strange mix of namings that started to bother me, and it is all resolved with the left/right scheme.

In #979 I use the horizontal/vertical naming scheme to rename things such as `is-pullback-is-equiv'` to `is-pullback-is-equiv-horizontal-maps`. What would be your proposed alternative name for this theorem with the new naming scheme?

**Comment by EgbertRijke** [comment]
I’ve been very tempted to do the full swoop and refactor pullbacks the same way that I’m refactoring pushouts. So far I’ve managed to hold myself back, even though there were some clear instances where it could have been beneficial.

**Comment by fredrik-bakke** [comment]
Good. That would not belong in this PR.

File: src/foundation-core/extensions-span-diagrams.lagda.md [hunk 8]
```diff
@@ -0,0 +1,229 @@
...
+  h₀ |        | h₁
+     V        V
+     S -----> B
+     |   g
+   f |
+     V
+     A.
+```
+
+Then we obtain a span diagram `A <- S' -> B'`.
```
Comment (fredrik-bakke) [inline src/foundation-core/extensions-span-diagrams.lagda.md:181]: We more commonly use the unicode symbols for single-dash arrows:
```suggestion
Then we obtain a span diagram `A ← S' → B'`.
```

File: src/foundation-core/extensions-spans.lagda.md [hunk 9]
```diff
@@ -0,0 +1,176 @@
...
+  h₀ |        | h₁
+     V        V
+     S -----> B
+     |   g
+   f |
+     V
+     A.
+```
+
+Then we obtain a span `A <- S' -> B'`.
```
Comment (fredrik-bakke) [inline src/foundation-core/extensions-spans.lagda.md:150]: We more commonly use the unicode symbols for single-dash arrows:
```suggestion
Then we obtain a span `A ← S' → B'`.
```

File: src/foundation-core/extensions-spans.lagda.md [hunk 10]
```diff
@@ -0,0 +1,176 @@
...
+          h₀       g
+     S' -----> S -----> B
+     |         |
+  f' |       f |
+     V         V
+     A' -----> A'.
+          h₁
+```
+
+Then we obtain a span `A' <- S' -> B`.
```
Comment (fredrik-bakke) [inline src/foundation-core/extensions-spans.lagda.md:100]: We more commonly use the unicode symbols for single-dash arrows:
```suggestion
Then we obtain a span `A' ← S' → B`.
```

File: src/foundation-core/extensions-spans.lagda.md [hunk 11]
```diff
@@ -0,0 +1,176 @@
...
+
+and a [morphism of arrows](foundation.morphisms-arrows.md) `h : hom-arrow f' f` as indicated in the diagram
+
+```text
+          h₀       g
+     S' -----> S -----> B
+     |         |
+  f' |       f |
+     V         V
+     A' -----> A'.
```
Comment (fredrik-bakke) [inline src/foundation-core/extensions-spans.lagda.md:96]:
```suggestion
     A' -----> A.
```

File: src/foundation-core/extensions-spans.lagda.md
Comment (fredrik-bakke) [inline src/foundation-core/extensions-spans.lagda.md:1]: As commented before, the contents of this file read more like pastings or concatenations to me

File: src/foundation/binary-type-duality.lagda.md [hunk 12]
```diff
@@ -0,0 +1,268 @@
...
+```agda
+module _
+  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} (S : span l3 A B)
+  where
+
+  map-equiv-spanning-type-span-binary-relation-span :
+    spanning-type-span S →
+    spanning-type-span-binary-relation (binary-relation-span S)
+  map-equiv-spanning-type-span-binary-relation-span s =
+    ( left-map-span S s , right-map-span S s , s , refl , refl)
```
Comment (fredrik-bakke) [inline src/foundation/binary-type-duality.lagda.md:112]: copattern match

File: src/foundation/binary-type-duality.lagda.md [hunk 13]
```diff
@@ -0,0 +1,268 @@
...
+```agda
+module _
+  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} (R : A → B → UU l3)
+  (a : A) (b : B)
+  where
+
+  map-equiv-binary-relation-span-binary-relation :
+    R a b → binary-relation-span (span-binary-relation R) a b
+  map-equiv-binary-relation-span-binary-relation r =
+    ((a , b , r) , refl , refl)
```
Comment (fredrik-bakke) [inline src/foundation/binary-type-duality.lagda.md:171]: copattern match

File: src/foundation/equivalences-arrows.lagda.md
Comment (fredrik-bakke) [inline src/foundation/equivalences-arrows.lagda.md:1]: I also define this in #979 with some additional properties [here](https://github.com/UniMath/agda-unimath/pull/979/files#diff-ead6243bae133a3cbea1938faf5e5a2f9d87f01bf011ac0643862b5861fe6f35).

File: src/synthetic-homotopy-theory/diagonal-cocones-under-diagonal-spans.lagda.md [hunk 14]
```diff
@@ -0,0 +1,44 @@
+# Diagonal cocones under diagonal span diagrams
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/diagonal-cocones-under-diagonal-spans.lagda.md:1]:
```suggestion
# Diagonal cocones under diagonal spans
```

File: src/structured-types/whiskering-pointed-homotopies.lagda.md [hunk 15]
```diff
@@ -0,0 +1,105 @@
...
+  {A : Pointed-Type l1} {B : Pointed-Type l2} {C : Pointed-Type l3}
+  where
+
+  left-whisker-htpy-pointed-map :
+    (g : B →∗ C) (f1 f2 : A →∗ B) (H : htpy-pointed-map f1 f2) →
+    htpy-pointed-map
+      ( comp-pointed-map g f1)
+      ( comp-pointed-map g f2)
+  left-whisker-htpy-pointed-map g f1 f2 H =
+    pair
```
Comment (fredrik-bakke) [inline src/structured-types/whiskering-pointed-homotopies.lagda.md:57]: copattern match

File: src/structured-types/whiskering-pointed-homotopies.lagda.md [hunk 16]
```diff
@@ -0,0 +1,105 @@
...
+module _
+  {l1 l2 l3 : Level}
+  {A : Pointed-Type l1} {B : Pointed-Type l2} {C : Pointed-Type l3}
+  where
+
+  right-whisker-htpy-pointed-map :
+    (g1 g2 : B →∗ C) (H : htpy-pointed-map g1 g2) (f : A →∗ B) →
+    htpy-pointed-map (comp-pointed-map g1 f) (comp-pointed-map g2 f)
+  right-whisker-htpy-pointed-map g1 g2 H (pair f refl) =
+    pair (pr1 H ·r f) (pr2 H)
```
Comment (fredrik-bakke) [inline src/structured-types/whiskering-pointed-homotopies.lagda.md:104]: Copattern match. Here, you can get away with something that computes on the first component:

```suggestion
  right-whisker-htpy-pointed-map :
    (g1 g2 : B →∗ C) (H : htpy-pointed-map g1 g2) (f : A →∗ B) →
    htpy-pointed-map (comp-pointed-map g1 f) (comp-pointed-map g2 f)
  pr1 (right-whisker-htpy-pointed-map g1 g2 H (f , _)) =
    htpy-pointed-htpy g1 g2 H ·r f
  pr2 (right-whisker-htpy-pointed-map g1 g2 H (f , refl)) =
    coh-pointed-htpy g1 g2 H
```

File: src/structured-types/whiskering-pointed-homotopies.lagda.md [hunk 17]
```diff
@@ -0,0 +1,105 @@
...
+                    ( map-pointed-map f2 (point-Pointed-Type A))))
+                ( inv
+                  ( distributive-inv-concat
+                    ( ap (pr1 g) (pr2 f2))
+                    ( pr2 g))))))) ∙
+        ( inv
+          ( assoc
+            ( ap (pr1 g) (pr2 f1))
+            ( pr2 g)
+            ( inv (ap (pr1 g) (pr2 f2) ∙ pr2 g)))))
```
Comment (fredrik-bakke) [inline src/structured-types/whiskering-pointed-homotopies.lagda.md:89]: I thought we preferred using named projections

**Review by fredrik-bakke — COMMENTED** [review]
I had a quick look through and reviewed some of the smaller files in this PR.

**Comment by fredrik-bakke** [comment]
I am actually surprised by how well-contained this PR is given how much refactoring it reportedly does. I would still like to kindly request that the amount of additional additions be kept to a minimum. Would it for instance be possible to move the refactoring of pointed spans to a different PR?

File: src/structured-types/whiskering-pointed-homotopies.lagda.md (hunk 17 above)
Comment (EgbertRijke) [reply src/structured-types/whiskering-pointed-homotopies.lagda.md:89]: I’m on it… This copied out of an old file and actually I have resolved a lot of unnamed projections in this pr. I definitely didn’t add new ones.

**Comment by EgbertRijke** [comment]
Thank you. Yes my workflow for this PR is actually really focused. It doesn’t make sense to me to leave the pointed pushouts unrefactored. I’m necessarily touching on them because they’re defined in terms of pushouts and I can’t do a half job, having a new scheme for pushouts and then a totally different approach to pointed pushouts. Besides, that code really looks like it wants some love.

File: src/foundation-core/extensions-span-diagrams.lagda.md
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: Ah, that can definitely be discussed. What is a pasting, conceptually?

File: src/structured-types/whiskering-pointed-homotopies.lagda.md (hunk 16 above)
Comment (EgbertRijke) [reply src/structured-types/whiskering-pointed-homotopies.lagda.md:104]: Thanks, I'll actually refactor this differently. I like naming each of the components separately and then use the named components in the copattern match definition. I just haven't gotten to it in this file yet.

Comment (EgbertRijke) [reply src/structured-types/whiskering-pointed-homotopies.lagda.md:104]: One advantage of this named components approach is that the copattern matching definitions become a lot more readable, especially when they get longer. When you introduce the components separately, it kind of becomes irrelevant whether you use records or not because it will already be very readable.

File: src/foundation-core/extensions-span-diagrams.lagda.md (hunk 8 above)
Comment (EgbertRijke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:181]: I've been using ascii art arrows for any kind of diagrams, also when they're inline. The advantage is that then all the span diagrams are displayed the same, and it is a bit clearer that a diagram is intended to be displayed. I also like inline span diagrams as follows: `A <-f- S -g-> B`, which is more consistent with my previous notation. Would you prefer `A ←f- S -g→ B` here?

File: src/synthetic-homotopy-theory/diagonal-cocones-under-diagonal-spans.lagda.md (hunk 14 above)
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/diagonal-cocones-under-diagonal-spans.lagda.md:1]: Under the new conventions, cocones will be under span diagrams, not under spans. I see that I have to change the filename though.

**Comment by EgbertRijke** [comment]
Note that this PR is not yet ready for review. I'd be happy to discuss design choices and conventions that are being introduced here, but the PR is not ready yet for the more mundane review comments. Many files are still being developed and unfinished, and I'd feel pressured to have comments on them.

**Comment by EgbertRijke** [comment]
I got through refactoring the flattening lemma. Sorry that this PR is taking so long to complete, but I'm definitely making progress on it.

File: src/foundation-core/extensions-span-diagrams.lagda.md (hunk 8 above)
Comment (fredrik-bakke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:181]: No, I agree `A <-f- S -g-> B` looks better. I think you bring up a good point about consistency.

File: src/foundation-core/extensions-span-diagrams.lagda.md
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: Well, my informal understanding of the concept is it is a look-and-match sort of procedure for commutative diagrams to produce other commutative diagrams.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: Ah, so [reading briefly on the nLab](https://ncatlab.org/nlab/show/pasting+diagram) suggests that pasting refers to the total diagram, not forgetting any edges. Thus I believe "concatenation" or "composition" may be better words to use.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: I'm not yet convinced that "pasting" is not the best term to use, to be honest. This is how it is already used in the library, and the domain and name of the entries should make it obvious what sort of values the constructions take.

**Comment by fredrik-bakke** [comment]
Here's a tip for you: I recently realized that you can get rid of the merged code that is erroneously highlighted as new changes by rebasing your branch onto master and force-pushing instead of normal pushing.

**Comment by EgbertRijke** [comment]
Ah thanks! I don't remember having had this problem before, and I thought it was due to migrating to a new computer, where I'm not in my usual routine yet

**Comment by fredrik-bakke** [comment]
I get this problem every time I branch from another PR branch before it is merged. 😅

**Comment by fredrik-bakke** [comment]
Congrats on a new computer though!

**Comment by EgbertRijke** [comment]
I am going to further simplify the proof of the flattening lemma:
- The equivalence [comparison-dependent-cocone-ind-Σ-cocone](https://unimath.github.io/agda-unimath/synthetic-homotopy-theory.flattening-lemma-pushouts.html#8021) seems to go in the wrong direction: As a rule of thumb, equivalences should go in the direction of evaluation maps whenever one of the underlying maps is an evaluation map.
- With minor adjustments to the original proof of the flattening lemma, we should be able to directly conclude the descent data variant of the flattening lemma. In particular the commuting cube with its rather unintelligible proof should be unnecessary.

File: src/foundation-core/extensions-span-diagrams.lagda.md
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: Your objection about extensions is super easy to avoid, by the way. The kinds of extensions you have in mind are extensions of _morphisms of span diagrams_ and they're clearly not extensions of span diagrams. So I feel like there is not clearly a clash of terminology.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: I think my basic objection is about whether the terminology is appropriate, not whether it conflicts with other things that could reasonably be called the same thing.

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: To extend something just means to make something bigger

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/extensions-span-diagrams.lagda.md:1]: > Since my basic understanding comes from the case of maps of types, maybe we can compare to that. Given a map `f : A -> B` and `i : A -> X`, an _extension of `f` along `i`_ is a map `X -> B` such that the triangle commutes. For instance, a question I have is, do you have an idea for what the extension of a type would be, such that when we phrase the same thing in terms of "morphisms of types", we recover the notion of extensions of maps as I phrased it?

I guess one reasonable definition of an extension of an object `X` would be an object `Y` equipped with a morphism `X -> Y`. This way, an extension of a morphism `f : X -> Z` along an extension `Y` of `X` would be a map from `Y` such that the triangle commutes. I could see that becoming useful in a naming scheme, and then the operations on spans that are currently called extensions are not extensions in this sense.

What do you think about this proposal of the meaning of extensions of objects?

File: src/structured-types/morphisms-pointed-arrows.lagda.md [hunk 18]
```diff
@@ -0,0 +1,548 @@
...
+  pr2 (pr2 id-hom-pointed-arrow) =
+    concat-pointed-htpy
+      ( id-pointed-map ∘∗ f)
+      ( f)
+      ( f ∘∗ id-pointed-map)
+      ( left-unit-law-comp-pointed-map f)
+      {!!}
+```
+
+-- ### Composition of morphisms of pointed-arrows
```
Comment (EgbertRijke) [inline src/structured-types/morphisms-pointed-arrows.lagda.md:230]: Oof the `make pre-commit` scripts totally scrambled up this file:(

Comment (fredrik-bakke) [reply src/structured-types/morphisms-pointed-arrows.lagda.md:230]: Ouch :(

File: src/synthetic-homotopy-theory/cocones-under-span-diagrams.lagda.md [hunk 19]
```diff
@@ -0,0 +1,379 @@
...
+    A <----- S -----> B
+    |        |        |
+  i |        | h      | j
+    V        V        V
+    X ====== X ====== X.
+```
+
+It is immediate from the definition of a cocone on a span that any commuting
+square of maps, or any [morphism of arrows](foundation.morphisms-arrows.md) can
+be presented equivalently as a cocone on a span.
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/cocones-under-span-diagrams.lagda.md:76]:
```suggestion
It is immediate from the definition of a cocone under a span diagram that any commuting
square of maps, or any [morphism of arrows](foundation.morphisms-arrows.md) can
be presented equivalently as a cocone under a span diagram.
```

**Comment by fredrik-bakke** [comment]
I am thinking about adding a definition for cones whose domain is part of its data in #1042 so that I can define the notion of a pullback cone. What is your assessment on doing this? Are you planning on doing something similar for cocones and pushouts? And what should these be called?

**Comment by EgbertRijke** [comment]
> I am thinking about adding a definition for cones whose domain is part of its data in #1042 so that I can define the (proper) notion of a pullback cone. What is your assessment on doing this? Are you planning on doing something similar for cocones and pushouts? And what should these be called?

I think there should be a notion `structure-cone-cospan-diagram` that says what it means to have the data of a cone over a cospan diagram on a type, and there should be a definition of `cone-cospan-diagram` that says what a cone on a cospan diagram is (i.e., a type with maps out of it etc). Note that the input of `(structure-)cone-cospan-diagram` should be a cospan diagram, and not a pair of maps with common codomain.

Similarly there should in this PR be a definition of `structure-cocone-span-diagram` and `cocone-span-diagram`, but I have not done this yet. What is currently (in this pull request) called `cocone-span-diagram` is what I would like to call `structure-cocone-span-diagram`.

Note that these refactorings should perhaps not be done simultaneously in separate pull requests, but rather after this PR is done, because the theory of pushouts relies on the theory of pullbacks and we can already anticipate that such refactorings are going to interfere with each other.

File: src/synthetic-homotopy-theory/coequalizers.lagda.md [hunk 20]
```diff
@@ -96,7 +96,7 @@ module _
                 ( cocone-pushout
                   ( vertical-map-span-cocone-cofork f g)
                   ( horizontal-map-span-cocone-cofork f g))))
-            ( dup-pushout
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/coequalizers.lagda.md:99]: 😢

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/coequalizers.lagda.md:99]: Can you explain yourself?

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/coequalizers.lagda.md:99]: I just found `dup-***` to be a good substitute for `dependent-universal-property-(your limit here)-standard-***`

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/coequalizers.lagda.md:99]: Ah ok, I find `up` and `dup` quite horrible:P

**Comment by EgbertRijke** [comment]
I am closing this pull request now, as I am not expecting to make progress on this any time soon.

**Comment by EgbertRijke** [comment]
This pull request is wildly out of date, but I would like to work on it again.
